US06030967
8,9-Dihydro-10-(4-pyridyl)-7H-1,3-benzodioxolo[4,5-f]isoindol-7-one hydrochloride
To a methanol (20 ml) solution of 8,9-dihydro-10-(4-pyridyl)-7H-1,3-benzodioxolo[4,5-f]isoindol-7-one (120 mg) was added 4N hydrogen chloride-ethyl acetate solution (4 ml) and stirred for 30 minutes. The resultant precipitates were collected by suction and washed with ethyl acetate to give the entitled compound (126 mg).

reactant | 8,9-dihydro-10-(4-pyridyl)-7H-1,3-benzodioxolo[4,5-f]isoindol-7-one | 120 mg | N1=CC=C(C=C1)C=1C=2CNC(C2C=C2C1C=1OCOC1C=C2)=O | C18H12N2O3
reactant | hydrogen chloride-ethyl acetate | 4N, 4 ml | C(C)(=O)OCC.Cl
solvent | methanol | 20 ml | CO | CH4O
product | 8,9-Dihydro-10-(4-pyridyl)-7H-1,3-benzodioxolo[4,5-f]isoindol-7-one hydrochloride | 126 mg | Cl.N1=CC=C(C=C1)C=1C=2CNC(C2C=C2C1C=1OCOC1C=C2)=O | InChI=1S/C18H12N2O3.ClH/c21-18-12-7-11-1-2-14-17(23-9-22-14)16(11)15(13(12)8-20-18)10-3-5-19-6-4-10;/h1-7H,8-9H2,(H,20,21);1H
